US05118441
Step v) Production of n-hexyl p-toluenesulfonate
20 ml of pyridine was added to 5.02 g (49.2 mM) of n-hexanol, followed by stirring below 0° C. To the mixture, 11.24 g (59.0 mM) of p-toluenesulfonyl chloride was added. The mixture was stirred for 6 hours below 0° C. After the reaction, the reaction mixture was poured into iced water and acidified with conc. HCl, followed by two times of extraction with dichloromethane, two times of washing with water, drying with sodium sulfate and distilling-off of the solvent to obtain 12.0 g (46.8 mM) of an objective product (yield: 95.0%).

reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | n-hexanol | 49.2 mM, 5.02 g | C(CCCCC)O | C6H14O
reactant | p-toluenesulfonyl chloride | 59.0 mM, 11.24 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | n-hexyl p-toluenesulfonate | 46.8 mM, 12.0 g, yield: 95.0% | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCC)C | C13H20O3S
